US04667032
4-Chloro-3H-phenoxazin-3-one
To a solution of 1.2 g of 3H-phenoxazin-3-one in acetic acid (25 ml) was added K2Cr2O7 (3.7 g). A solution of chlorine in acetic acid was added dropwise to the resulting suspension. After disappearance of the starting material, as monitored by TLC, the reaction mixture was poured into 200 ml of H2O and the resulting precipitate was filtered (1.2 g) and chromatographed on silica gel to yield the title compound.

reactant | 3H-phenoxazin-3-one | 1.2 g | C1=CC(C=C2OC3=CC=CC=C3N=C12)=O | C12H7NO2
reactant | chlorine | ClCl | Cl2
reactant | H2O | 200 ml | O | H2O
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 4-Chloro-3H-phenoxazin-3-one | ClC=1C(C=CC2=NC3=CC=CC=C3OC12)=O | C12H6ClNO2
